US07411071B2
The sodium metal (16 mg, 0.681 mmol) was dissolved in 2 ml of anhydrous ethanol. To this solution was added a suspension of N-(4-(chloromethyl)thiazol-2-yl)acetamide (100 mg, 0.521 mmol) in ethanol (1 ml). The reaction was stirred at room temperature for 1 hour and then heated at 63° C. for 1 hour. The reaction was concentrated and the residue was purified via preparative HPLC to afford N-(4-ethoxymethyl-thiazol-2-yl)-acetamide as a yellow amorphous solid (44 mg, 42%). LC/MS m/z 199.16 (M-1)+; HPLC Rt: 1.79 min.

reactant | sodium | 0.681 mmol, 16 mg | [Na] | Na
reactant | N-(4-(chloromethyl)thiazol-2-yl)acetamide | 0.521 mmol, 100 mg | ClCC=1N=C(SC1)NC(C)=O | C6H7ClN2OS
reactant | ethanol | 2 ml | C(C)O | C2H6O
reactant | ethanol | 1 ml | C(C)O | C2H6O
product | N-(4-ethoxymethyl-thiazol-2-yl)-acetamide | 44 mg, 42% | C(C)OCC=1N=C(SC1)NC(C)=O | C8H12N2O2S
